US07101868B2
N-[3,3-Dimethyl-1-(1-methyl-piperidin-4-yl)-2,3-dihydro-1H-indol-6-yl]-2-(4-fluoro-benzylamino)-nicotinamide
A solution of N-[3,3-dimethyl-1-(1-methyl-piperidin-4-yl)-2,3-dihydro-1H-indol-6-yl]-2-fluoro-nicotinamide (500 mg), 4-fluorobenzylamine (240 μL) and NaHCO3 (359 mg) was dissolved in IpOH (5 mL) and heated to 85° C. overnight. After cooling to RT, the mixture was dried under N2. The residue was partitioned between EtOAc and H2O, the organic layer was separated, washed with brine, dried over Na2SO4 and filtered. Silica was added to the filtrate and concentrated to a residue. It was purified by flash chromatography (10% MeOH/EtOAc) to yield a fluffy yellow solid. M+H 488.4. Calc'd for C29H34FN5O: 487.3.

reactant | N-[3,3-dimethyl-1-(1-methyl-piperidin-4-yl)-2,3-dihydro-1H-indol-6-yl]-2-fluoro-nicotinamide | 500 mg | CC1(CN(C2=CC(=CC=C12)NC(C1=C(N=CC=C1)F)=O)C1CCN(CC1)C)C | C22H27FN4O
reactant | NaHCO3 | 359 mg | C(=O)(O)[O-].[Na+]
reactant | 4-fluorobenzylamine | 240 μL | FC1=CC=C(CN)C=C1 | C7H8FN
product | N-[3,3-Dimethyl-1-(1-methyl-piperidin-4-yl)-2,3-dihydro-1H-indol-6-yl]-2-(4-fluoro-benzylamino)-nicotinamide | CC1(CN(C2=CC(=CC=C12)NC(C1=C(N=CC=C1)NCC1=CC=C(C=C1)F)=O)C1CCN(CC1)C)C | C29H34FN5O
